US06624161B2
6-Methyl-2-octyloxy-4H-3,1-benzoxazin-4-one (Reference Number 11)
A solution of 2-amino-5-methylbenzoic acid (302 mg, 2 mmol) in pyridine (10 ml) was cooled to 0° C. and treated dropwise with octyl chloroformate (1.15 ml, 6 mmol). The resulting mixture was allowed to warm to room temperature and stirred for 4 h. The pyridine was removed under vacuum and the residue dissolved in ethyl acetate (50 ml). This solution was washed with 1M HCl (10 ml) and brine (5 ml), dried (MgSO4) and the solvent removed in vacuo to afford a pale orange oily solid. Recrystallisation from hexane afforded the desired product as an off-white solid (144 mg, 25%); δH (400 MHz, DMSO-d6) 0.68 (3H, t, J 7, CH2CH3), 1.26-1.40 (10H, m, 5×CH2), 1.73 (2H, tt, J, J′7, OCH2CH2), 2.35 (3H, s, CH3), 4.35 (2H, t, J 7, OCH2), 7.34 (1H, d, J 8, Ph), 7.65 (1H, d, J 8, Ph), 7.83 (1H, s, Ph); m/z (ES+) 290 (MH+).

reactant | 2-amino-5-methylbenzoic acid | 2 mmol, 302 mg | NC1=C(C(=O)O)C=C(C=C1)C | C8H9NO2
reactant | octyl chloroformate | 6 mmol, 1.15 ml | ClC(=O)OCCCCCCCC | C9H17ClO2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 6-Methyl-2-octyloxy-4H-3,1-benzoxazin-4-one | 144 mg, 25% | CC=1C=CC2=C(C(OC(=N2)OCCCCCCCC)=O)C1 | C17H23NO3
